US07253286B2
N-(4-(6-(4-Methylsulfonylphenylamino)pyrimidin-4-yloxy)phenyl)-N′-phenylurea
N-(4-(6-(4-Methylsulfanylphenylamino)pyrimidin-4-yloxy)phenyl-N′-phenylurea (180 mg, 0.406 mmol) and 3-chloroperbenzoic acid (200 mg, 0.812 mmol) were stirred in dichloromethane (6 ml) at room temperature for 12 hours. A saturated aqueous sodium thiosulfate solution was added to suspend the reaction, and then the reaction solution was distributed between ethyl acetate and water, the organic layer was washed with 1N aqueous sodium hydroxide, water and saturated brine and dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was distilled off under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (eluent—ethyl acetate:hexane=3:1), the fraction containing the target substance was concentrated and suspended in ethyl acetate, the suspension was diluted with hexane and the crystals were filtered out, washed with hexane and blow-dried to obtain the title compound (137 mg, 0.288 mmol, 71%) as colorless crystals.

reactant | 4-(6-(4-Methylsulfanylphenylamino)pyrimidin-4-yloxy)phenyl-N′-phenylurea | 0.406 mmol, 180 mg | CSC1=CC=C(C=C1)NC1=CC(=NC=N1)OC1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C24H21N5O2S
reactant | 3-chloroperbenzoic acid | 0.812 mmol, 200 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-(4-(6-(4-Methylsulfonylphenylamino)pyrimidin-4-yloxy)phenyl)-N′-phenylurea | 0.288 mmol, 137 mg, 71% | CS(=O)(=O)C1=CC=C(C=C1)NC1=CC(=NC=N1)OC1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C24H21N5O4S
